* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE05\LTspice\TBJ03CAop.asc
Rb C B {RB}
Vcc C 0 {Vcc}
Q1 C B P001 0 TBJ
RE P001 0 {RE}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.param Vcc=30 RB=820k RE=220
.op
.model TBJ NPN(IS=10F BF=350 VAF=100)
.backanno
.end
